US08133886B2
Step 17.1: 6-(2-Chloro-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid
To a mixture of 7.4 g (39.5 mMol) 6-hydroxy-1-naphthoic acid and 5.9 g (39.5 mMol) 2,4-dichloropyrimidin in 104 ml of acetone, 79 ml NaOH (1 M in H2O) are added dropwise. The mixture is stirred for 19 h at rt and finally 2 h at 50° C. Then it is poured into 1.3 l water and acidified by addition of 40 ml of a 2 M HCl solution. Filtration of the suspension, washing with water and drying gives the title compound: MS: [M+1]+=301.

reactant | 6-hydroxy-1-naphthoic acid | 39.5 mMol, 7.4 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | 2,4-dichloropyrimidin | 39.5 mMol, 5.9 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | water | 1.3 l | O | H2O
reactant | HCl | 2 M | Cl | ClH
solvent | acetone | 104 ml | CC(=O)C | C3H6O
solvent | NaOH | 1 M, 79 ml | [OH-].[Na+]
product | 6-(2-Chloro-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid | ClC1=NC=CC(=N1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C15H9ClN2O3
